US08703953B2
4-Chloropyridine (5 g, 44.0 mmol) hydrochloride salt was dried by azeotropic distillation with anhydrous toluene in a round bottomed flask. To this, anhydrous THF (100 mL) was added under nitrogen atmosphere and cooled to −78° C. After 15 min, LDA, 2M in THF/heptane/ethylbenzene (48.4 mL, 97 mmol) was added dropwise and the reaction stirred for 30 min. Oxetan-3-one (3.81 g, 52.8 mmol) was then added and reaction was stirred for 5 min at −78° C. and then cold bath was removed and reaction was allowed to warm to room temperature gradually (−1 h). The reaction was quenched by addition of aqueous ammonium chloride and organics extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried and concentrated under reduced pressure to afford 3-(4-chloropyridin-3-yl)oxetan-3-ol (3.8 g, 20.47 mmol, 46% yield) as a yellow oil. 1H NMR (400 MHz, DMSO-d6) δ 8.6 (s, 1 H), 8.51 (d, J=5.6 Hz, 1 H), 7.56 (d, J=5.2 Hz, 1 H), 6.46 (s, 1 H), 5.14 (m, 2 H), 4.73 (m, 2 H).

reactant | 4-Chloropyridine | 44.0 mmol, 5 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | THF heptane ethylbenzene | 97 mmol, 48.4 mL | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | Oxetan-3-one | 52.8 mmol, 3.81 g | O1CC(C1)=O | C3H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chloropyridin-3-yl)oxetan-3-ol | 20.47 mmol, 3.8 g, 46% yield | ClC1=C(C=NC=C1)C1(COC1)O | C8H8ClNO2
